US07582769B2
(S)-1-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-sulfonyl]-pyrrolidine-2-carboxylic acid
Prepared in a similar manner to [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid via dicyclohexylamine and (S)-1-(2-amino-thiazole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester to give the title compound.

reactant | [2-(3,3-dicyclohexyl-ureido)-thiazole-5-sulfonylamino]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)NCC(=O)O)=O)C1CCCCC1 | C18H28N4O5S2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | (S)-1-(2-amino-thiazole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CN=C(S1)N | C9H13N3O4S2
product | (S)-1-[2-(3,3-Dicyclohexyl-ureido)-thiazole-5-sulfonyl]-pyrrolidine-2-carboxylic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)N1[C@@H](CCC1)C(=O)O)=O)C1CCCCC1 | C21H32N4O5S2
